### PR TITLE
[Merged by Bors] - feat: `x ^ (log x)⁻¹ ≤ exp 1`

### PR DESCRIPTION
**Pull request by YaelDillies**
... and `-x⁻¹ ≤ log x ≤ x`. All three statements are weakenings of more natural statements that hold only when `x ≠ 0`. Having versions that also work for `x = 0` due to junk values is really practical.

From LeanAPAP

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Pow/Real.lean [hunk 1]
```diff
@@ -166,6 +166,17 @@ theorem abs_rpow_le_exp_log_mul (x y : ℝ) : |x ^ y| ≤ exp (log x * y) := by
   · by_cases hy : y = 0 <;> simp [hx, hy, zero_le_one]
   · rw [rpow_def_of_pos (abs_pos.2 hx), log_abs]
 
+lemma rpow_inv_log_le_exp_one : x ^ (log x)⁻¹ ≤ exp 1 := by
```
Comment (b-mehta) [inline Mathlib/Analysis/SpecialFunctions/Pow/Real.lean:169]: Please give the equality version of this as well.

**Review by b-mehta — APPROVED** [review]
Nice!

bors merge
